US06846819B1
a) N-Methyl-N-(3-methyl-1H-inden-2-ylmethyl)-acrylamide
To a solution of 3-methyl-2-(methylaminomethyl)indene hydrochloride (0.132 g, 0.63 mmole), from Preparation 19, and triethylamine (0.19 g, 1.89 mmole) in CH2Cl2 (6 mL) at 0° C. was added a solution of acryloyl chloride (0.06 mL, 0.7 mmole) in CH2Cl2 (2 mL). The reaction was stirred at 0° C. for 1 hr. then was poured into water. The layers were separated, and the organic layer was washed with brine, dried over Mg SO4 and concentrated in vacuo to yield the title compound (0.145 g. quantitative) as an oily solid: MS (ES) m/e 228.2 (M+H)+.

reactant | 3-methyl-2-(methylaminomethyl)indene hydrochloride | 0.63 mmole, 0.132 g | Cl.CC1=C(CC2=CC=CC=C12)CNC
reactant | triethylamine | 1.89 mmole, 0.19 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.7 mmole, 0.06 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-Methyl-N-(3-methyl-1H-inden-2-ylmethyl)-acrylamide | 0.145 g | CN(C(C=C)=O)CC=1CC2=CC=CC=C2C1C | C15H17NO
